US08053447B2
To a solution of 3-(4-carboxy-phenoxy)-pyrrolidine-1-carboxylic acid t-butyl ester (2.0 g, 6.53 mmol) in DMF (75 mL) was added HOBt (1.1 g, 7.83 mmol) and EDAC (1.5 g, 7.83 mmol) and the resulting mixture was stirred for 10 min. 3-Aza-bicyclo-[3.2.2]nonane (1 g, 7.83 mmol) and DIPEA (1.4 mL) were added and stirring was continued for 16 hrs at ambient temperature. The volatiles were evaporated in vacuo and to the residue was added water (50 mL) and diethyl ether (25 mL). A precipitate was forme, filtered off and redissolved in DCM (25 mL) followed by addition of TFA (10 mL). The mixture was stirred at room temperature for 16 hrs and the volatiles evaporated in vacuo. The residue was dissolved in water (50 mL) and washed with diethyl ether (2×10 mL). The pH of the aqueous phase was adjusted to ˜11 by addition of 32% NaOH followed by extraction with diethyl ether (2×50 mL). The combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo. The crude residue was stirred with EtOAc (20 mL) and the precipitate formed was filtered off. The filtrate was evaporated to dryness affording crude 1.1 g (55%) of (3-aza-bicyclo[3.2.2]non-3-yl)-[4-(pyrrolidin-3-yloxy)-phenyl]-methanone which was used without further purification.

reactant | 3-(4-carboxy-phenoxy)-pyrrolidine-1-carboxylic acid t-butyl ester | 6.53 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)C(=O)O | C16H21NO5
reactant | HOBt | 7.83 mmol, 1.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 7.83 mmol, 1.5 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-Aza-bicyclo-[3.2.2]nonane | 7.83 mmol, 1 g | C12CNCC(CC1)CC2 | C8H15N
reactant | DIPEA | 1.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | (3-aza-bicyclo[3.2.2]non-3-yl)-[4-(pyrrolidin-3-yloxy)-phenyl]-methanone | 1.1 g, 55% | C12CN(CC(CC1)CC2)C(=O)C2=CC=C(C=C2)OC2CNCC2 | C19H26N2O2
